US08877782B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-furan-3-ylmethyl)-nicotinamide
As described for example 8b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using (tetrahydrofuran-3-yl)methanamine hydrochloride instead of methylamine, to the title compound (103 mg, 81%) which was obtained as a white solid. MS: m/e=394.3 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | (tetrahydrofuran-3-yl)methanamine hydrochloride | Cl.O1CC(CC1)CN
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-furan-3-ylmethyl)-nicotinamide | 103 mg, 81% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)NCC2COCC2)C=C1 | C22H23N3O4
